US05440044
(5RS)-5-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentanoic acid
A solution of 140 mg of (5RS)-5-hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl)-pentanoic acid methyl ester in 6 ml of methanol is mixed with 6 ml of 0.5 n sodium hydroxide solution and stirred for 2 hours at room temperature. The methanol is removed in a vacuum, the residue is acidified to pH 4 with 0.5 n sulfuric acid, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. 125 mg of the title compound is thus obtained as colorless oil.

reactant | (5RS)-5-hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl)-pentanoic acid methyl ester | 140 mg | COC(CCCC(C1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)O)=O | C22H35NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | (5RS)-5-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentanoic acid | 125 mg | OC(CCCC(=O)O)C1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C21H33NO4
